### ISSUE TITLE
rcases leaking subgoals out of have

### ISSUE THREAD

**Issue by PatrickMassot** [leanprover/lean4#4331]
### Prerequisites

Please put an X between the brackets as you perform the following steps:

* [X] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [X] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [X] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

Using `rcases` on a term containing a hole leads to subgoals leaking out of the current `have`.

### Context

This was [discussed on Zulip](https://leanprover.zulipchat.com/#narrow/stream/270676-lean4/topic/rcases.20subgoals.20leaking.20out.20of.20have). I came across this while refactoring something in the sphere eversion project.

### Steps to Reproduce

My original minimization was:

```lean
example : True := by
  have : ∃ k, 5 = 2 + k := by
    -- Using apply with a hole create a new goal right here
    -- apply Nat.exists_eq_add_of_le (?_ : 2 ≤ 5)
    -- Using rcases teleports the new goal outside of the have block
    rcases Nat.exists_eq_add_of_le (?_ : 2 ≤ 5) with ⟨k, hk⟩
    exact ⟨k, hk⟩
  trivial -- This trivial solves 2 ≤ 5
  trivial -- this one takes care of True
```

Kyle came up with a variant where the hole is not directly inside `rcases` but in a `let`:

```lean
example : True := by
  have : ∃ k, 5 = 2 + k :=
    let h := Nat.exists_eq_add_of_le (?_ : 2 ≤ 5)
    by
      rcases h with ⟨k, hk⟩
      exact ⟨k, hk⟩
  trivial -- this one takes care of True
  trivial -- This trivial solves 2 ≤ 5
```

**Expected behavior:** [Clear and concise description of what you expect to happen]

The new subgoal should be inside the `have`.

**Actual behavior:** [Clear and concise description of what actually happens]

The new subgoal leaks outside the `have`.

### Versions

Found with 4.8.0, reproduced in 4.9.0-nightly-2024-06-02 on live.lean-lang.org.

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by digama0** [comment]
It's not likely to happen soon, unless someone tells me this is high priority. Feel free to assign it to someone else in the meantime.

**Comment by b-mehta** [comment]
I've run into something similar multiple times (first over a year ago!). I think the actual bug is the same, so I'm adding it here rather than making a separate report.
```
example (f : (n : Nat) → n = 1 → ∃ m, n = m) : False := by
  let n : Nat := 1
  obtain ⟨m, hm⟩ := f n ?g1
  sorry
```
the hole in `obtain` creates an error on the *previous* line, rather than creating a new goal.

I'm happy to make a separate bug report for this if it's viewed as a different problem, but this shows up for me very often.

**Comment by llllvvuu** [comment]
> Kyle came up with a variant where the hole is not directly inside `rcases` but in a `let`:
> 
> ```lean
> example : True := by
>   have : ∃ k, 5 = 2 + k :=
>     let h := Nat.exists_eq_add_of_le (?_ : 2 ≤ 5)
>     by
>       rcases h with ⟨k, hk⟩
>       exact ⟨k, hk⟩
>   trivial -- this one takes care of True
>   trivial -- This trivial solves 2 ≤ 5
> ```

This one looks like it's working as intended. For example, this seems fine
```lean
example : True := by
  have : ∃ k, 5 = 2 + k := Nat.exists_eq_add_of_le (?_ : 2 ≤ 5)
  trivial
  trivial
```
thus this seems fine:
```lean
example : True := by
  have : ∃ k, 5 = 2 + k :=
    let h := Nat.exists_eq_add_of_le (?_ : 2 ≤ 5)
    h
  trivial
  trivial
```
thus the provided example looks fine.

The other examples look interesting though. I can reproduce from 4.7.0 (which seems to be when `rcases`/`obtain` were introduced into core) onwards.

**Comment by kmill** [comment]
@b-mehta Your example is the same problem, and it appears to be fixed by #5024.

**Comment by keithadler** [comment]
No longer reproduces on `4.35.0-nightly-2026-09-04` or stable `4.33.1`. The `?_` goal created inside the `have` block no longer escapes it: after the first `trivial` (which closes `True`) the second `trivial` reports `No goals to be solved`, and there is no leftover `2 ≤ 5` goal outside the `have`.

Suggest closing.

Triage assisted by Claude; repros run and checked manually.
